US06251936B1
2-Benzyl-4,5 dimethylthiophene
Trifluoroacetic acid (50 mL) was added dropwise over a 60 minute period to a stirred, 0° C. suspension of 4,5-dimethylthiophene-2-yl-(phenyl)-methanol (7.7 g, 35.3 mmol), sodium borohydride (6.67 g, 177 mmol) and ether (600 mL). After an additional 1.5 hours the reaction mixture was added to 10% aqueous sodium hydroxide (600 mL) and stirred for 30 minutes. The layers were separated and the ether phase was washed with 10% aqueous sodium hydroxide, brine and dried (magnesium sulfate). The ether phase was concentrated to provide the title compound as a an oil (6.73 g, 94%): NMR (CDCl3); δ7.33-7.19 (m, 5H), 6.47 (s, 1H), 4.03 (s, 2H), 2.27 (2, 3H), 2.06 (s, 2H); MS (EI) (M+) 202 (45%, MI).

reactant | Trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4,5-dimethylthiophene-2-yl-(phenyl)-methanol | 35.3 mmol, 7.7 g | CC=1C=C(SC1C)C(O)C1=CC=CC=C1 | C13H14OS
reactant | sodium borohydride | 177 mmol, 6.67 g | [BH4-].[Na+]
reactant | sodium hydroxide | 600 mL | [OH-].[Na+]
solvent | ether | 600 mL | CCOCC | C4H10O
product | 2-Benzyl-4,5 dimethylthiophene | C(C1=CC=CC=C1)C=1SC(=C(C1)C)C | C13H14S
